US05858995
A mixture of 2-methyl-7-nitrobenzo[b]furan (2.66 g), N-bromosuccinimide (3.21 g) and 2,2'-azobis-(2,4-dimethyl-4-methoxyvaleronitrile) (270 mg) in dichloromethane (30 ml) was refluxed for 1 hour. The reaction mixture was washed with aqueous saturated sodium bicarbonate and brine, dried over sodium sulfate and concentrated in vacuo. The residue was crystallized from diethyl ether to give 2-bromomethyl-7-nitrobenzo[b]furan (3.3 g).

reactant | 2-methyl-7-nitrobenzo[b]furan | 2.66 g | CC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C9H7NO3
reactant | N-bromosuccinimide | 3.21 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 2,2'-azobis-(2,4-dimethyl-4-methoxyvaleronitrile) | 270 mg | N(=NC(C#N)(CC(C)(C)OC)C)C(C#N)(CC(C)(OC)C)C | C16H28N4O2
product | 2-bromomethyl-7-nitrobenzo[b]furan | 3.3 g | BrCC1=CC2=C(O1)C(=CC=C2)[N+](=O)[O-] | C9H6BrNO3
